US07465798B2
2-(4-Cyano-benzyl)-3-hydroxy-7,8,9,10-tetrahydro-benzo[h]quinoline-4-carboxylic acid (Compound 17)
In a 25 mL round-bottomed flask, 6,7,8,9-tetrahydrobenzo[g]indoline-2,3-dione (0.119 g, 0.590 mmol) was taken up in 1 mL ethanol and 3 mL 10 M NaOH, and the mixture heated at reflux temperature for 3 minutes. A solution of acetic acid 3-(4-cyano-phenyl)-2-oxo-propyl ester (0.167 g, 0.767 mmol) in 3 mL ethanol was then added and the reaction further heated for 10 minutes. The reaction mixture was then cooled to room temperature and acidified with glacial acetic acid, and the yellow precipitate collected by filtration. The procedure described above for the purification of example 7 was followed. Product was obtained as a bright yellow powder (42 mg, 20% yield): 1H NMR (400 MHz, DMSO-D6) δ ppm 1.74-1.87 (m, 4H) 2.83 (t, J=5.31 Hz, 2H) 3.12 (t, J=5.43 Hz, 2H), 4.40 (s, 2H), 7.28 (d, J=9.09 Hz, 1H) 7.51 (d, J=8.59 Hz, 2H) 7.75 (d, J=8.34 Hz, 2H) 8.23 (d, J=8.84 Hz, 1H).

reactant | 6,7,8,9-tetrahydrobenzo[g]indoline-2,3-dione | 0.590 mmol, 0.119 g | N1C(C(C2=CC=C3C(=C12)CCCC3)=O)=O | C12H11NO2
reactant | acetic acid 3-(4-cyano-phenyl)-2-oxo-propyl ester | 0.767 mmol, 0.167 g | C(#N)C1=CC=C(C=C1)CC(COC(C)=O)=O | C12H11NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | NaOH | 10 M, 3 mL | [OH-].[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-(4-Cyano-benzyl)-3-hydroxy-7,8,9,10-tetrahydro-benzo[h]quinoline-4-carboxylic acid | 42 mg, 20% yield | C(#N)C1=CC=C(CC2=NC3=C4C(=CC=C3C(=C2O)C(=O)O)CCCC4)C=C1 | C22H18N2O3
